US05756507
Step 8A 2-(3,5-dimethylphenylethynyl)-4-nitrophenylamine
To a solution of 3,5-dimethylphenylethyne (156 mg in 7 mL of dry, nitrogen saturated triethylamine) was added 2-iodo-4-nitroaniline (264 mg, prepared essentially as described in: Toth, I. Helv. Chim. Acta, 1971, 54, 1486.) followed by tetrakis(triphenylphosphine)palladium (23 mg) and cuprous bromide (10 mg) and the mixture heated to reflux on an oil bath. After 2 hours the mixture was cooled to room temperature, concentrated in vacuo and purified by flash chromatography on silica gel (hexane:methylene chloride:ethyl acetate, 15:8:1) to give the title compound (256 mg).

reactant | 3,5-dimethylphenylethyne | 7 mL, 156 mg | CC=1C=C(C=C(C1)C)C#C | C10H10
reactant | 2-iodo-4-nitroaniline | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
catalyst | tetrakis(triphenylphosphine)palladium | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,5-dimethylphenylethynyl)-4-nitrophenylamine | 256 mg | CC=1C=C(C=C(C1)C)C#CC1=C(C=CC(=C1)[N+](=O)[O-])N | C16H14N2O2
